US07629358B2
Preparation 83: (4-Hydroxy-3-methyl-phenyl)-acetonitrile
Boron tribromide (1M in dichloromethane, 6.2 mL, 6.2 mmol) was added to a solution of 4-methoxy-3-methylphenylacetonitrile (0.2 g, 1.24 mmol) in dichloromethane (10 mL), cooled to −78° C. The reaction mixture was stirred at this temperature for 1 hour and then at room temperature for 2 hours. The mixture was then re-cooled to −78° C., diluted with sodium hydrogen carbonate solution and allowed to warm to room temperature. The organic layer was separated, washed with brine, dried over sodium sulfate and concentrated in vacuo to afford the title compound as a white solid in 87% yield, 0.16 g. 1H NMR (400 MHz, CDCl3) δ:7.07 (1H, s), 7.00 (1H, d), 6.76 (1H, d), 3.65 (2H, s), 2.25 (3H, s) ppm; LRMS APCI m/z 146 [M−H]−.

reactant | Boron tribromide | 6.2 mmol, 1M, 6.2 mL | B(Br)(Br)Br | BBr3
reactant | 4-methoxy-3-methylphenylacetonitrile | 1.24 mmol, 0.2 g | COC1=C(C=C(C=C1)CC#N)C | C10H11NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | (4-Hydroxy-3-methyl-phenyl)-acetonitrile | 87% yield | OC1=C(C=C(C=C1)CC#N)C | C9H9NO
